US07157447B2
N-(4-Fluoro-2-(thiazol-2-ylamino)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide.
The title compound can be prepared from intermediate 27, 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid and N-(2-(aminomethyl)-5-fluorophenyl)thiazol-2-amine, derived from reduction of intermediate 123, 4-fluoro-2-(thiazol-2-ylamino)benzonitrile. 1H NMR (400 MHz, DMSO-d6) δ ppm: 9.92 (1H, s), 9.10 (1H, t, J=6.3 Hz), 8.19 (1H, dd, J=2.8, 12.3 Hz), 7.41–7.38 (2H, m), 7.32–7.28 (5H, m), 6.99 (1H, d, J=3.8 Hz), 6.71 (1H, ddd(dt), J=2.8, 8.3), 5.05 (2H, s), 4.45 (2H, d, J=6.3 Hz), 4.01–3.98 (2H, m), 3.88–3.85 (2H, m), 1.54 (6H, s) LCMS (+ESI, M+H+) m/z 536.

reactant | 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)O | C17H18N2O5
reactant | N-(2-(aminomethyl)-5-fluorophenyl)thiazol-2-amine | NCC1=C(C=C(C=C1)F)NC=1SC=CN1 | C10H10FN3S
product | N-(4-Fluoro-2-(thiazol-2-ylamino)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | FC1=CC(=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=C1)NC=1SC=CN1 | C27H26FN5O4S
